US07642264B2
6′-Bromo-6-methyl-4-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl
The title compound was prepared from 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine (example A.31) (1.09 g, 3.0 mmol), i-PrMgBr/ZnBr2 and commercially available 2,6-dibromopyridine (2.13 g, 9 mmol) according to the general procedure IVc protocol b. Obtained as a light yellow solid (0.826 g, 70%). MS (ISP) 393.0 [(M+H)+] and 394.8 [(M+2+H)+].

reactant | 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine | 3.0 mmol, 1.09 g | IC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C13H9F3IN
reactant | 2,6-dibromopyridine | 9 mmol, 2.13 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
catalyst | i-PrMgBr ZnBr2 | C(C)(C)[Mg]Br.[Zn+2].[Br-].[Br-]
product | 6′-Bromo-6-methyl-4-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl | BrC1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C18H12BrF3N2
